US05128355
Part A: Preparation of 2-Butyl-4,5-dicyanoimidazole
Ethyl pentanimidate hydrochloride (42.66 g, 257.8 mmol, 1 eq), diaminomaleonitrile (27.90 g, 258.1 mmol, 1 eq) and pyridine (400 mL) were mixed and refluxed for 48 hours under N2. The solvent was removed by rotary evaporation.

reactant | Ethyl pentanimidate hydrochloride | 257.8 mmol, 42.66 g, 1 eq | Cl.C(CCCC)(OCC)=N
reactant | diaminomaleonitrile | 258.1 mmol, 27.90 g, 1 eq | N/C(=C(/C#N)\N)/C#N | C4H4N4
solvent | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
product | 2-Butyl-4,5-dicyanoimidazole | C(CCC)C=1NC(=C(N1)C#N)C#N | C9H10N4
